US08609688B2
4-[3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]thiomorpholine 1,1-dioxide
A mixture of 4-(3-bromophenyl)thiomorpholine 1,1-dioxide (281 mg, 0.968 mmol), bis(pinacolato)diboron (270 mg, 1.06 mmol), Pd(dppf)Cl2.DCM (158 mg, 0.194 mmol) and potassium acetate (294 mg, 2.90 mmol) in dioxane (5 mL) was heated at 80° C. for 11 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAc and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane=90:10→85:15→80:20→17:25) to afford desired product (247 mg, 75.7%) as white solid.

reactant | 4-(3-bromophenyl)thiomorpholine 1,1-dioxide | 0.968 mmol, 281 mg | BrC=1C=C(C=CC1)N1CCS(CC1)(=O)=O | C10H12BrNO2S
reactant | bis(pinacolato)diboron | 1.06 mmol, 270 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.194 mmol, 158 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 2.90 mmol, 294 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]thiomorpholine 1,1-dioxide | 247 mg, 75.7% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCS(CC1)(=O)=O)C | C16H24BNO4S
